US08497278B2
Step 1: 6-Methyl-2-(4-methylphenyl)-imidazo[1,2-a]-pyridine
A mixture of 2-bromo-4′-methylacetophenone (90% pure, 10.21 g, 43.11 mmol), 2-amino-5-methyl picoline (4.66 g, 43.11 mmol) and K2CO3 (6.6 g, 47.75 mmol) in absolute EtOH (70 ml) was heated at 93° C. overnight. After cooled to 40° C., ether (100 mL) was added. The mixture was stirred for 30 minutes and cooled by ice-water bath. After removal of solvent through filtration, the solid was stirred with water (50 ml) for 30 minutes and filtered, rinsed with water and dried under vacuum at 80° C. for 2 hr to give 6.33 g of white solid (66.1% yield). m/e+ 223.4 for C15H15N2 (M+H)+; 1H-NMR (400 MHz, CDCl3, δ) 7.84 (m, 3H), 7.71 (d, J=9.531 Hz, 1), 7.51 (d, J=9.165 Hz, 1H), 7.24 (m, 2H), 7.00 (m, 1), 2.38 (s, 3H), 2.29 (d, J=6.23 Hz, 3H) ppm. 13C-NMR (100 MHz, CDCl3 δ) 145.065, 144.444, 137.991, 130.696, 130.635, 129.642, 129.483, 128.391, 128.262, 126.018, 123.652, 122.476, 116.486, 107.857, 21.520, 18.259 ppm.

reactant | 2-bromo-4′-methylacetophenone | 43.11 mmol, 10.21 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | 2-amino-5-methyl picoline | 43.11 mmol, 4.66 g | NC1(NC=C(C=C1)C)C | C7H12N2
reactant | K2CO3 | 47.75 mmol, 6.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | EtOH | 70 ml | CCO | C2H6O
product | 6-Methyl-2-(4-methylphenyl)-imidazo[1,2-a]-pyridine | 6.33 g, 66.1% yield | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C | C15H14N2
